* C:\Users\Paul\Documents\Student-Research-Project-\schematics\ltspice\Student Research.asc
RG1 N002 IC 100k
RF1 N003 N002 5k
V1 5V 0 5
R3 N008 5V 10k
XU1 N008 N002 5V 0 N003 MCP6001
R4 0 N008 10k
C1 N008 Vin {C}
V3 Vin 0 SINE(0 2 5k) AC 1
C2 IC 0 {C}
R5 0 N007 10k
R6 5V N007 10k
C4 IC 0 {C}
RG2 N004 IC 100k
RF2 N005 N004 5k
C3 N007 ES2_Filter {C}
XU2 N007 N004 5V 0 N005 MCP6001
XU3 N005 Vout 5V 0 Vout MCP6001
C6 N001 N003 10µF
R1 N001 0 100k
R7 N001 ES2_Filter 1k
R2 N001 ES2_Filter 10k
.tran 0 50ms 0 100
.inc MCP6001.lib
.param C=10uF
* .ac dec 20 1 1Meg
* Power Supply
* Extras
* Simulations
* Formulas
* Vout = Vin * [(RF + RG)/RG] + (Vcc/2) * [(RF+RG)/RG]
.ic V(IC) = 0
;.options ptrantau=1u
;.option cshunt=1e-12
;.option gmin=1e-10 abstol=1e-10 reltol=0.003
* .tran 0 100ms 0 100
.lib MCP6001.lib
.backanno
.end
